US05077293
A. 4,6-Dihydroxy-5-methoxypyrimidine
A modified procedure of Bretschneider, Richter, and Klotzer, Monatsh. Chem. 96(6), 1661-76 (1965), was used. Absolute methanol (1.0 l) was added with ice bath cooling to sodium methoxide (175 g, 3.24 mole) in a 3 L round bottom flask. When the mixture had cooled to less than 20° C., dimethyl methoxymalonate (162.14 g, 1.00 mole) was added, and then solid formamidine acetate (104.11 g, 1.00 mole) was added. The mixture was stirred in the ice bath for 30 minutes, and then refluxed for 1 hour. The mixture was cooled in a cold water bath and then concentrated HCl (about 350 mL) was added until the mixture was strongly acidic on pH test paper. The precipitate was filtered, suspended in cold water (about 400 ml), and then filtered again. The white powder was dried in vacuo (125.84 g, 88.7%), and carried on without further purification.

reactant | sodium methoxide | 3.24 mole, 175 g | C[O-].[Na+]
reactant | dimethyl methoxymalonate | 1.00 mole, 162.14 g | COC(C(=O)OC)C(=O)OC | C6H10O5
reactant | formamidine acetate | 1.00 mole, 104.11 g | C(C)(=O)O.C(=N)N
reactant | HCl | about 350 mL | Cl | ClH
solvent | methanol | 1.0 l | CO | CH4O
product | 4,6-Dihydroxy-5-methoxypyrimidine | OC1=NC=NC(=C1OC)O | C5H6N2O3
